US08557805B2
2-(Benzyloxy)-4-[4-(methylsulfonyl)phenoxy]-1-nitrobenzene
2-(Benzyloxy)-4-[4-(methylthio)phenoxy]-1-nitrobenzene (10.3 g) was dissolved in a mixed solvent of tetrahydrofuran (200 mL)-methanol (100 mL)-water (50 mL), Oxone (trade mark) (42.0 g) was added under ice-cooling, and the mixture was stirred at room temperature for 4 hr. The reaction solution was filtered to remove a white solid, and the filtrate was concentrated. Water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained solid was washed with a diethyl ether-hexane mixed solvent to give the title compound (11.0 g, yield 98%) as pale-yellow crystals.

reactant | 2-(Benzyloxy)-4-[4-(methylthio)phenoxy]-1-nitrobenzene | 10.3 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC1=CC=C(C=C1)SC)[N+](=O)[O-] | C20H17NO4S
reactant | Oxone | 42.0 g | OOS(=O)[O-].[K+]
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 2-(Benzyloxy)-4-[4-(methylsulfonyl)phenoxy]-1-nitrobenzene | 11.0 g, yield 98% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC1=CC=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C20H17NO6S
